US07557213B2
Preparation of 6-[3-(3,4-Dimethyl-benzoyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridine-2-carboxylic acid amide
27 mg (0.06 mmol) of 6-[3-(3,4-dimethyl-benzoyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridine-2-carboxylic acid hydrochloride was dissolved in a mixture of 2 mL DMSO and 0.2 mL 2 M methanolic ammonia followed by the addition of 100 mg (0.36 mmol) of 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride. The mixture was stirred for 1 h at r.t. followed by purification on reverse-phase HPLC and flash chromatography to give 17 mg of a white solid. LC-MSD, m/z for C25H21N3O3 [M+H]+=412.2; HPLC retention time: 1.7 min.

reactant | 6-[3-(3,4-dimethyl-benzoyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridine-2-carboxylic acid hydrochloride | 0.06 mmol, 27 mg | Cl.CC=1C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=CC=CC(=N2)C(=O)O)C=CC1C
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 0.36 mmol, 100 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | ammonia | 2 M, 0.2 mL | N | H3N
product | 6-[3-(3,4-Dimethyl-benzoyl)-4-oxo-4H-quinolin-1-ylmethyl]-pyridine-2-carboxylic acid amide | 17 mg | CC=1C=C(C(=O)C2=CN(C3=CC=CC=C3C2=O)CC2=CC=CC(=N2)C(=O)N)C=CC1C | C25H21N3O3
